US04954507
6,7-DIFLUORO-1,4-DIHYDRO-1-(1,1-DIMETHYLETHYL)-4-OXO-3-QUINOLINE CARBOXYLIC ACID ETHYL ESTER
There was added 1.1 g (27 mmoles) of 60% sodium hydride portionwise, at a temperature between 18° C. to 22° C., to a suspension of 7.22 g (21.9 mmoles) of 3-(2,4,5-trifluorophenyl)-3-oxo-2-(((1,1-dimethylethyl)amino)methylene)propanoic acid ethyl ester in 73 mL of anhydrous dioxane. An exothermic reaction occured. After stirring at room temperature during 1 hour, the resulting mixture was evaporated to dryness, and taken up with CH2Cl2 (150 mL) and H2O (200 mL). After decantation the organic layer was dried over MgSO4. Evaporation of dichloromethane gave 6.41 g of an amorphous solid which was washed twice with water to yield 6.08 g of titled compound.

reactant | sodium hydride | 27 mmoles, 1.1 g | [H-].[Na+]
reactant | 3-(2,4,5-trifluorophenyl)-3-oxo-2-(((1,1-dimethylethyl)amino)methylene)propanoic acid ethyl ester | 21.9 mmoles, 7.22 g | C(C)OC(C(C(=O)C1=C(C=C(C(=C1)F)F)F)=CNC(C)(C)C)=O | C16H18F3NO3
solvent | dioxane | 73 mL | O1CCOCC1 | C4H8O2
product | 6,7-DIFLUORO-1,4-DIHYDRO-1-(1,1-DIMETHYLETHYL)-4-OXO-3-QUINOLINE CARBOXYLIC ACID ETHYL ESTER | 6.41 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)F)C(C)(C)C | C16H17F2NO3
